US07741321B2
A mixture of 4-cyanobenzeneboronic acid (7.35 g, 50 mmol), (6-bromo-pyridin-2-yl)carbamic acid tert-butyl ester (13.8 g, 50 mmol), Pd(Ph3P)4 (5.8 g, 0.15 mmol) and K2CO3 (10.4 g, 75 mmol) in DMF/H2O (1:1, 250 mL) was stirred under argon at 80° C. overnight. DMF was evaporated off under reduced pressure and the residue was dissolved in EtOAc (200 mL). The mixture was washed with water and brine, dried over Na2SO4, and concentrated to dryness. The residue was purified by column (Petroleum Ether/EtOAc 50:1) on silica gel to give [6-(4-cyano-phenyl)-pyridin-2-yl]carbamic acid tert-butyl ester (7.0 g, 60%). 1H NMR (300 MHz, CDCl3) δ 8.02-8.07 (m, 2H), 7.95 (d, J=8.4 Hz, 1H), 7.71-7.79 (m, 3H), 7.37-7.44 (m, 2H), 1.53 (s, 9H).

reactant | 4-cyanobenzeneboronic acid | 50 mmol, 7.35 g | C(#N)C1=CC=C(C=C1)B(O)O | C7H6BNO2
reactant | (6-bromo-pyridin-2-yl)carbamic acid tert-butyl ester | 50 mmol, 13.8 g | C(C)(C)(C)OC(NC1=NC(=CC=C1)Br)=O | C10H13BrN2O2
reactant | K2CO3 | 75 mmol, 10.4 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF H2O | 250 mL | CN(C)C=O.O
catalyst | Pd(Ph3P)4 | 0.15 mmol, 5.8 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | [6-(4-cyano-phenyl)-pyridin-2-yl]carbamic acid tert-butyl ester | 7.0 g, 60% | C(C)(C)(C)OC(NC1=NC(=CC=C1)C1=CC=C(C=C1)C#N)=O | C17H17N3O2
